* First-order pre-order model of the protected 12 V, diode OR-ing and logic rails.
* Semiconductor macromodels are deliberately conservative approximations; see README.md.

V12 source12 0 PWL(0 0 0.5m 0 0.51m -12 2m -12 2.01m 12 6m 12 6.01m 0 9m 0 9.01m 12 25m 12)
Rsource12 source12 vin_raw 0.02
Rfuse vin_raw vin_fused 0.0049
* Ideal-diode approximation of the two correctly oriented parallel P-channel
* MOSFETs. RS is 24 mOhm per hot device divided by two; reverse leakage and
* current-sharing imbalance are idealized.
Dreverse vin_fused v12_protected reverse_mosfet_approx
.model reverse_mosfet_approx D(IS=1p N=0.05 RS=0.012)

* SMBJ15A stand-in: 17.5 V breakdown, series resistance chosen to approach the
* datasheet clamping region without claiming surge-energy correlation.
Dtv 0 v12_protected smbj15a_approx
.model smbj15a_approx D(BV=17.5 IBV=1m RS=0.35 CJO=1n)
Cbulk v12_protected 0 470u IC=0
Cdec12 v12_protected 0 100n
Rstrip v12_protected 0 1.6
Isurge 0 v12_protected PULSE(0 25 20m 1u 1u 200u 1)

Vusb usb_source 0 PWL(0 0 4m 0 4.01m 5 9m 5 9.01m 0 25m 0)
Rusb usb_source usb_vbus 0.15
D12 v12_protected logic_input rb058_approx
Dusb usb_vbus logic_input rb058_approx
* RB058LAM-40 conservative forward-drop approximation. The model uses very
* small sub-breakdown leakage; it is not a temperature-correlated vendor model.
.model rb058_approx D(IS=1n N=1.2 RS=0.08 CJO=80p BV=40 IBV=2.5u)
Rvbus usb_vbus 0 470
Cinput logic_input 0 20u
Ilogic logic_input 0 PWL(0 0 2.1m 0 2.11m 0.41 25m 0.41)

* Averaged power-stage model. It verifies source handover and rail sequencing,
* not AP63203 switching stability or PCB parasitics.
Bbuck_raw buck_raw 0 V=V(logic_input)>3.8 ? 3.3 : 0
Rbuck buck_raw v3p3 0.08
Cout v3p3 0 44u
I3p3 v3p3 0 PWL(0 0.02 2m 0.02 2.01m 0.5 17m 0.5 17.01m 0.05 25m 0.05)

Bldo_raw v5ldo_raw 0 V=V(v12_protected)>6 ? 4.75 : 0
Rldo v5ldo_raw v5_ldo 5
Cldo v5_ldo 0 1u

* TPS2113A automatic highest-input behavior with worst-case 0.15 ohm switch.
Bmux_raw v5mux_raw 0 V=max(V(v5_ldo),V(usb_vbus))
Rmux v5mux_raw v5_buffer 0.15
Cbuffer v5_buffer 0 1.1u
Ibuffer v5_buffer 0 2.75m

.tran 5u 25m
.measure tran v3_min_usb MIN V(v3p3) FROM=7.5m TO=8.5m
.measure tran v5_min_usb MIN V(v5_buffer) FROM=7.5m TO=8.5m
.measure tran v5_min_12v MIN V(v5_buffer) FROM=12m TO=16m
.measure tran reverse_rail_max MAX V(v12_protected) FROM=0.6m TO=1.9m
.measure tran reverse_input_current_max MAX I(V12) FROM=0.6m TO=1.9m
.measure tran tvs_clamp_max MAX V(v12_protected) FROM=20m TO=20.2m
.measure tran logic_input_min_usb MIN V(logic_input) FROM=7.5m TO=8.5m
.measure tran protected_full_load FIND V(v12_protected) AT=5m
.measure tran protected_at_7m FIND V(v12_protected) AT=7m
.measure tran protected_at_8m FIND V(v12_protected) AT=8m
.end
